US06423710B1
(2R)-2-Hydroxyhexanoic Acid
To a cooled (0° C.), stirred solution of D-norleucine (500 mg, 3.81 mmol) in 10 mL of 1N aqueous sulfuric acid was added sodium nitrite (421 mg, 6.10 mmol) in 3 mL of water dropwise over a 20-minute period. The reaction mixture was allowed to slowly warm to room temperature over a 16-hour period. The mixture then was extracted with EtOAc (2×25 mL), dried (Na2SO4), and concentrated to yield 200 mg (40%) of a white waxy solid.

reactant | D-norleucine | 3.81 mmol, 500 mg | N[C@H](CCCC)C(=O)O | C6H13NO2
reactant | sodium nitrite | 6.10 mmol, 421 mg | N(=O)[O-].[Na+]
solvent | sulfuric acid | 1N, 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 3 mL | O | H2O
product | (2R)-2-Hydroxyhexanoic Acid | O[C@@H](C(=O)O)CCCC | C6H12O3
